US07964645B2
Preparation of rac-3-Phenyl-N-{[(phenyl-p-tolyl-methyl)-carbamoyl]-methyl}-propionamide
Prepared in analogy to example 1.1 from (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]) and rac-C-phenyl-C-p-tolyl-methylamine (CA [55095-21-1]).

reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
reactant | rac-C-phenyl-C-p-tolyl-methylamine | C1(=CC=CC=C1)C(C1=CC=C(C=C1)C)N | C14H15N
product | rac-3-Phenyl-N-{[(phenyl-p-tolyl-methyl)-carbamoyl]-methyl}-propionamide | C1(=CC=CC=C1)CCC(=O)NCC(NC(C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C25H26N2O2
